US07151097B2
Preparation of Intermediate 5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-hydroxy-1H-pyrazole-3-carboxylic Acid Ethyl Ester (I-1d)
To a stirred solution of 5-(4-chlorophenyl)-1-(2-chlorophenyl)4-formyl-1H-pyrazole-3-carboxylic acid ethyl ester I-1c (2.2 g, 5.6 mmol) in dichloromethane (22 ml) was added m-chloroperbenzoic acid (2.9 g (50% purity), 8.4 mmol) and the resulting slurry was stirred for 6 hours. The mixture was diluted into ethyl ether, washed with half-saturated aqueous sodium bicarbonate, water, brine, dried (Na2SO4) and concentrated in vacuo to afford a yellow solid, 3.5 g. To a slurry of this material in methanol (20 ml), was added triethylamine (1 ml) to produce a solution. After 45 minutes, the reaction was concentrated in vacuo to afford a yellow solid. This material was purified by silica gel chromatograpy (Combiflash instrument, 120 g silica gel column, 5–25% gradient of ethyl acetate/hexanes to afford the title compound (I-1d) as a yellow solid, 1.5 g.

reactant | 5-(4-chlorophenyl)-1-(2-chlorophenyl)4-formyl-1H-pyrazole-3-carboxylic acid ethyl ester | 5.6 mmol, 2.2 g | C(C)OC(=O)C1=NN(C(=C1C=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C19H14Cl2N2O3
reactant | m-chloroperbenzoic acid | 8.4 mmol, 2.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 22 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
product | 5-(4-Chlorophenyl)-1-(2-chlorophenyl)-4-hydroxy-1H-pyrazole-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=NN(C(=C1O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H14Cl2N2O3
